### PR TITLE
[Merged by Bors] - refactor(Combinatorics/SimpleGraph): remove sndOfNotNil in favour of getVert 1

### PR DESCRIPTION
**Pull request by pimotte**
This allows to leave out the not-nil hypothesis, in addition to not needing it for
the definition of tail.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #14977 

Per discussion [here](https://github.com/leanprover-community/mathlib4/pull/14977#discussion_r1685822727)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -748,50 +759,92 @@ def notNilRec {motive : {u w : V} → (p : G.Walk u w) → (h : ¬ p.Nil) → So
...
 
-/-- The second vertex along a non-nil walk. -/
-def sndOfNotNil (p : G.Walk v w) (hp : ¬ p.Nil) : V :=
-  p.notNilRec (@fun _ u _ _ _ => u) hp
+@[simp]
+lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → Sort*}
+    (cons : {u v w : V} → (h : G.Adj u v) → (q : G.Walk v w) →
+    motive (q.cons h) Walk.not_nil_cons) (h' : G.Adj u v) (q' : G.Walk v w) :
+    @Walk.notNilRec _ _ _ _ _ cons _ _ = cons h' q' := by rfl
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:767]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 2]
```diff
@@ -966,6 +1019,71 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
       exact ⟨d, List.Mem.tail _ hd, hcd⟩
     · exact ⟨⟨(x, y), a⟩, List.Mem.head _, uS, h⟩
 
+lemma getVert_copy  {u v w x: V} (p : G.Walk u v) (i : ℕ) (h : u = w) (h' : v = x) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1022]:
```suggestion
@[simp] lemma getVert_copy  {u v w x: V} (p : G.Walk u v) (i : ℕ) (h : u = w) (h' : v = x) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 3]
```diff
@@ -966,6 +1019,71 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
+
+lemma getVert_tail {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
+    p.tail.getVert n = p.getVert (n + 1) := by
+  match p with
+  | .nil => rfl
+  | .cons h q =>
+    simp only [cons_getVert_succ, tail_cons_eq, cons_getVert]
+    exact getVert_copy q n (getVert_zero q).symm rfl
+
+lemma cons_getVert_one (q : G.Walk v w) (hadj : G.Adj u v) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1045]:
```suggestion
@[simp] lemma getVert_ cons_one (q : G.Walk v w) (hadj : G.Adj u v) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 4]
```diff
@@ -966,6 +1019,71 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
+    exact h'.symm
+  | cons hadj q =>
+    by_cases hi : i = 0
+    · simp only [hi, getVert_zero, h.symm]
+    · simp only [copy_cons, cons_getVert_succ]
+      rw [cons_getVert _ _ hi]
+      rw [cons_getVert _ _ hi]
+      apply getVert_copy
+
+lemma getVert_tail {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1037]:
```suggestion
@[simp] lemma getVert_tail {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: This one is a consequence of cons_getVert_succ and getVert_zero. I couldn't figure out how to add it without the linter shouting at me, am I missing something?

**Comment by pimotte** [comment]
Just force-pushed after rebasing because of the #14977 merge:)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 1 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:772]: Fixed

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 2 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Added:)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Oh the linter is right here. Forget me :)

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Well actually please do
```suggestion
lemma getVert_cons_one (q : G.Walk v w) (hadj : G.Adj u v) :
```
still

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Fixed along with some other misnames:)

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 5]
```diff
@@ -79,22 +79,24 @@ lemma IsHamiltonianCycle.map {H : SimpleGraph β} (f : G →g H) (hf : Bijective
...
-  simp only [isHamiltonianCycle_isCycle_and_isHamiltonian_tail, IsHamiltonian, support_tail,
+  simp only [isHamiltonianCycle_isCycle_and_isHamiltonian_tail, IsHamiltonian,
     exists_prop]
+  constructor <;> intro h <;> simp [support_tail _ h.1.not_nil] at h ⊢ <;> assumption
 
 /-- A hamiltonian cycle visits every vertex. -/
 lemma IsHamiltonianCycle.mem_support (hp : p.IsHamiltonianCycle) (b : α) :
-    b ∈ p.support := List.mem_of_mem_tail <| support_tail p _ ▸ hp.isHamiltonian_tail.mem_support _
+    b ∈ p.support :=
+  List.mem_of_mem_tail <| support_tail p hp.1.not_nil ▸hp.isHamiltonian_tail.mem_support _
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:99]:
```suggestion
  List.mem_of_mem_tail <| support_tail p hp.1.not_nil ▸ hp.isHamiltonian_tail.mem_support _
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 6]
```diff
@@ -765,61 +770,84 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
-    G.Adj v (p.sndOfNotNil hp) :=
-  p.notNilRec (fun h _ => h) hp
+@[simp] lemma adj_getVert_one {p : G.Walk v w} (hp : ¬ p.Nil) :
+    G.Adj v (p.getVert 1) := by
+  have := adj_getVert_succ p (by
+    rw [SimpleGraph.Walk.nil_iff_length_eq] at hp
+    push_neg at hp
+    exact Nat.zero_lt_of_ne_zero hp)
+  rw [@getVert_zero] at this
+  exact this
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:780]:
```suggestion
  rwa [getVert_zero] at this
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 7]
```diff
@@ -765,61 +770,84 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
-@[simp] lemma cons_tail_eq (p : G.Walk x y) (hp : ¬ p.Nil) :
-    cons (p.adj_sndOfNotNil hp) (p.tail hp) = p :=
-  p.notNilRec (fun _ _ => rfl) hp
+lemma cons_tail_eq (p : G.Walk x y) (hp : ¬ p.Nil) :
+    cons (p.adj_getVert_one hp) p.tail = p := by
+  cases p with
+  | nil => simp only [nil_nil, not_true_eq_false] at hp
+  | cons h q =>
+    simp only [getVert_cons_succ, tail_cons_eq, cons_copy, copy_rfl_rfl]
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:819]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 8]
```diff
@@ -765,61 +770,84 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
-  rw [← support_cons, cons_tail_eq]
+    x :: p.tail.support = p.support := by
+  rw [← support_cons, cons_tail_eq _ hp]
 
 @[simp] lemma length_tail_add_one {p : G.Walk x y} (hp : ¬ p.Nil) :
-    (p.tail hp).length + 1 = p.length := by
-  rw [← length_cons, cons_tail_eq]
+    p.tail.length + 1 = p.length := by
+  rw [← length_cons, cons_tail_eq _ hp]
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:828]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 9]
```diff
@@ -765,61 +770,84 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
-  p.notNilRec (by
-    intro u v w huv q
-    unfold Walk.tail
-    simp only [notNilRec_cons, Walk.support_cons, List.tail_cons]) hnp
+lemma support_tail_of_not_nil (p : G.Walk u v) (hnp : ¬p.Nil) :
+    p.tail.support = p.support.tail := by
+  match p with
+  | .nil => simp only [nil_nil, not_true_eq_false] at hnp
+  | .cons h q => simp only [tail_cons, getVert_cons_succ, support_copy, support_cons,
+                    List.tail_cons]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:850]: This kind of indenting is quite bad style as people might have to reindent if the `match` ends up taking more characters in the future. In that case it's better to
```suggestion
  | .cons h q =>
    simp only [tail_cons, getVert_cons_succ, support_copy, support_cons, List.tail_cons]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 10]
```diff
@@ -995,17 +1023,28 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
-  p.notNilRec (fun _ _ ↦ by simp only [tail_cons, cons_getVert_succ]) hnp
-
-@[simp]
-lemma cons_sndOfNotNil (q : G.Walk v w) (hadj : G.Adj u v) :
-    (q.cons hadj).sndOfNotNil not_nil_cons = v := by
-  unfold sndOfNotNil; simp only [notNilRec_cons]
-
-lemma getVert_one (p : G.Walk u v) (hnp : ¬ p.Nil) : p.getVert 1 = p.sndOfNotNil hnp :=
-  p.notNilRec (fun _ _ ↦ by simp only [cons_getVert_succ, getVert_zero, cons_sndOfNotNil]) hnp
+@[simp] lemma getVert_copy  {u v w x: V} (p : G.Walk u v) (i : ℕ) (h : u = w) (h' : v = x) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1026]:
```suggestion
@[simp] lemma getVert_copy  {u v w x : V} (p : G.Walk u v) (i : ℕ) (h : u = w) (h' : v = x) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 11]
```diff
@@ -1032,13 +1071,19 @@ theorem mem_support_iff_exists_getVert {u v w : V} {p : G.Walk v w} :
...
-      rw [← tail_support_eq_support_tail _ hnp]
+
+      rw [← support_tail_of_not_nil _ hnp]
       rw [mem_support_iff_exists_getVert]
       use n - 1
-      simp only [Nat.sub_le_iff_le_add, length_tail_add_one, getVert_tail]
+      simp only [Nat.sub_le_iff_le_add]
+      rw [getVert_tail _ hnp, length_tail_add_one hnp]
       have : n - 1 + 1 = n := by omega
       rwa [this]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1081]: Can't omega just do it? 
```suggestion
      omega
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 12]
```diff
@@ -995,17 +1023,28 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
+    rw [getVert_of_length_le _ (by simp only [length_nil, Nat.zero_le] : nil.length ≤ _)]
+    rw [getVert_of_length_le _ (by simp only [length_copy, length_nil, Nat.zero_le])]
+    exact h'.symm
+  | cons hadj q =>
+    by_cases hi : i = 0
+    · simp only [hi, getVert_zero, h.symm]
+    · simp only [copy_cons, getVert_cons_succ]
+      rw [getVert_cons _ _ hi]
+      rw [getVert_cons _ _ hi]
+      apply getVert_copy
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1039]:
```suggestion
  cases p, i with
  | nil, _ =>
    rw [getVert_of_length_le _ (by simp only [length_nil, Nat.zero_le] : nil.length ≤ _)]
    rw [getVert_of_length_le _ (by simp only [length_copy, length_nil, Nat.zero_le])]
    exact h'.symm
  | cons hadj q, 0 => simp only [hi, getVert_zero, h.symm]
  | cons hadj q, i + 1 => simp only [copy_cons, getVert_cons_succ, getVert_copy]
```
or something like that

In fact, since the `cases` is the first thing in the proof, it would be better to even get rid of the tactic mode proof and do pattern matching instead

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 11 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Nope, doesn't look like omega gets this in one go

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 12 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: There's something funky going on here that I can't quite put my finger on.

A match outside tactic mode complains about a type mismatch for the nil.
A match inside tactic mode errors with `Case tag 'rhs' not found.`
It seems to have something to do with the copy in the statement, as soon as i remove that there's no problems. 
cases also doesn't seem to support multiple arguments? I tried something with a product, but that didn't seem to work either.

Any pointers?:)

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 13]
```diff
@@ -79,22 +79,24 @@ lemma IsHamiltonianCycle.map {H : SimpleGraph β} (f : G →g H) (hf : Bijective
...
     · cases hp.ne_nil rfl
-    simp only [support_cons, List.count_cons, List.map_cons, List.head_cons, hf.injective.eq_iff,
-      add_tsub_cancel_right]
+    simp only [map_cons, getVert_cons_succ, tail_cons_eq, support_copy,support_map]
+    rw [List.count_map_of_injective _ _ hf.injective, ← support_copy, ← tail_cons_eq]
     exact hp.isHamiltonian_tail _
 
 lemma isHamiltonianCycle_isCycle_and_isHamiltonian_tail  :
-    p.IsHamiltonianCycle ↔ ∃ h : p.IsCycle, (p.tail h.not_nil).IsHamiltonian :=
+    p.IsHamiltonianCycle ↔ ∃ _ : p.IsCycle, p.tail.IsHamiltonian :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:87]:
```suggestion
    p.IsHamiltonianCycle ↔ p.IsCycle ∧ p.tail.IsHamiltonian :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 14]
```diff
@@ -79,22 +79,24 @@ lemma IsHamiltonianCycle.map {H : SimpleGraph β} (f : G →g H) (hf : Bijective
...
   ⟨fun ⟨h, h'⟩ ↦ ⟨h, h'⟩, fun ⟨h, h'⟩ ↦ ⟨h, h'⟩⟩
 
 lemma isHamiltonianCycle_iff_isCycle_and_support_count_tail_eq_one :
     p.IsHamiltonianCycle ↔ p.IsCycle ∧ ∀ a, (support p).tail.count a = 1 := by
-  simp only [isHamiltonianCycle_isCycle_and_isHamiltonian_tail, IsHamiltonian, support_tail,
+  simp only [isHamiltonianCycle_isCycle_and_isHamiltonian_tail, IsHamiltonian,
     exists_prop]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:93]: Can you get something of the form
```suggestion
  simp (config := { contextual := true }) [isHamiltonianCycle_isCycle_and_isHamiltonian_tail,
    IsHamiltonian, support_tail, IsCycle.not_nil, exists_prop]
```
to work? You will my suggestion in the comment just above for this one to work

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 15]
```diff
@@ -765,61 +770,81 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
-@[simp] lemma adj_sndOfNotNil {p : G.Walk v w} (hp : ¬ p.Nil) :
-    G.Adj v (p.sndOfNotNil hp) :=
-  p.notNilRec (fun h _ => h) hp
+@[simp] lemma adj_getVert_one {p : G.Walk v w} (hp : ¬ p.Nil) :
+    G.Adj v (p.getVert 1) := by
+  have := adj_getVert_succ p (by
+    rw [SimpleGraph.Walk.nil_iff_length_eq] at hp
+    push_neg at hp
+    exact Nat.zero_lt_of_ne_zero hp)
+  rwa [getVert_zero] at this
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:779]: This proof really should be
```suggestion
  simpa using adj_getVert_succ p (by simpa)
```
Can you add simp lemmas until something of the above works?

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 16]
```diff
@@ -765,61 +770,81 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
+
+/-- The walk obtained by removing the first n darts of a walk. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:781]:
```suggestion
/-- The walk obtained by removing the first `n` darts of a walk. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 17]
```diff
@@ -765,61 +770,81 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
+def drop {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk (p.getVert n) v :=
+  match p, n with
+  | .nil, _ => .nil
+  | p, 0 => p.copy (getVert_zero p).symm rfl
+  | .cons h q, (n + 1) => (q.drop n).copy (getVert_cons_succ _ h).symm rfl
 
 /-- The walk obtained by removing the first dart of a non-nil walk. -/
-def tail (p : G.Walk u v) (hp : ¬ p.Nil) : G.Walk (p.sndOfNotNil hp) v :=
-  p.notNilRec (fun _ q => q) hp
+def tail (p : G.Walk u v) : G.Walk (p.getVert 1) v := p.drop 1
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:789]: Yeah now it kind of looks like we could just remove this definition entirely. I need to think more...

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 18]
```diff
@@ -765,61 +770,81 @@ lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → S
...
+
+@[simp]
+lemma tail_cons_nil (h : G.Adj u v) : (Walk.cons h .nil).tail = .nil := by rfl
+
+lemma tail_cons_eq (h : G.Adj u v) (p : G.Walk v w) : (p.cons h).tail =
+    p.copy (getVert_zero p).symm rfl := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:795]:
```suggestion
lemma tail_cons_eq (h : G.Adj u v) (p : G.Walk v w) :
    (p.cons h).tail = p.copy (getVert_zero p).symm rfl := by
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 17 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:789]: My thinking here is tailing a walk is a relatively common operation, dropping n not so much. I think from a generic software engineering perspective I think it makes sense to have tail because it clearly communicates what you're doing and it also intuitively matches what you expect from tail in a functional context.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:789]: I agree. I guess we should a bit longer to see whether more uses appear in Mathlib

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:789]: Just to be clear, I was defending keeping tail, but are you proposing removing drop? (I'm actually tempted to keep drop too, since it's a piece of future engineering that has negligent maintenance burden, we could add drop lemma's when drop is actually used)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 12 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: @YaelDillies I accidently resolved this conversation, so just a friendly tag to make sure it's doesn't disappear in the void

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:789]: I was proposing removing tail. To be clear, no action needs to be taken in this PR, and I tend to agree with your usability argument.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 15 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:779]: `simpa using adj_getVert_succ p (by simpa : 0 < p.length)` works except for the second simpa, but simping "not nil" to "0 < p.length" seems pretty impactful, are you sure we want to be doing that?

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:779]: I managed to get it to this:

```
@[simp] lemma adj_getVert_one {p : G.Walk v w} (hp : ¬ p.Nil) :
    G.Adj v (p.getVert 1) := by
  have := adj_getVert_succ p (by simpa [not_nil_iff_lt_length] using hp)
  simp only [getVert_zero, zero_add] at this
  exact this
```

which works

but

```
@[simp] lemma adj_getVert_one {p : G.Walk v w} (hp : ¬ p.Nil) :
    G.Adj v (p.getVert 1) := by
  simpa [getVert_zero, zero_add] using adj_getVert_succ p (by simpa [not_nil_iff_lt_length] using hp)
```
errors with

```
type mismatch
  h✝
has type
  G.Adj (p.getVert 0) (p.getVert (0 + 1)) : Prop
but is expected to have type
  G.Adj v (p.getVert 1) : Prop
```

Any clue what's going on here?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Hmm... no clue, no. If you manage to minimise it, try posting it on #mathlib4 or #lean4 (depending on whether you got rid of the mathlib dependencies or not)

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 13 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Fixed

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 14 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Worked as is:)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 16 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Fixed

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 18 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Fixed

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 12 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Fixed this by using subst_vars

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Probably some metavariable instantiating too late

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 19]
```diff
@@ -1032,13 +1062,19 @@ theorem mem_support_iff_exists_getVert {u v w : V} {p : G.Walk v w} :
         rw [@nil_iff_length_eq]
         have : 1 ≤ p.length := by omega
         exact Nat.not_eq_zero_of_lt this
-      rw [← tail_support_eq_support_tail _ hnp]
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1065]: Please don't include blank lines in proofs. If you feel like the proof could do with some more control flow, please add comments instead of blank lines

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Fixed:)

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
